US06610701B2
A solution of 2-imidazol-1-yl-benzonitrile (200 mg, 1.2 mmol) in ethanol saturated with ammonia (20 ml) was stirred in the presence of Raney nickel (50% slurry in water, washed with ethanol, catalytic amount) under a hydrogen atmosphere for 4 h. The reaction mixture was filtered over celite and concentrated to give 2-Imidazol-1-yl-benzylamine; 1H NMR (CDCl3, 400 MHz) δ7.69 (bs, 1H), 7.57 (m, 1H), 7.47 (m, 1H), 7.38 (m, 1H), 7.27 (m, 1H), 7.22 (bs, 1H), 7.16 (m, 1H) 3.73 (s, 2H).

reactant | 2-imidazol-1-yl-benzonitrile | 1.2 mmol, 200 mg | N1(C=NC=C1)C1=C(C#N)C=CC=C1 | C10H7N3
reactant | ammonia | 20 ml | N | H3N
solvent | ethanol | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 2-Imidazol-1-yl-benzylamine | N1(C=NC=C1)C1=C(CN)C=CC=C1 | C10H11N3
